US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)-5,7-dimethoxy-3-(3-(pyrrolidin-1-yl)propyl)quinazolin-4(3H)-one
To a solution of 2-[4-(3-bromo-propoxy)-3,5-dimethyl-phenyl]-3-(3-bromo-propyl)-5,7-dimethoxy-3H-quinazolin-4-one (0.76 g, 1.35 mmol) in DMF (10 mL) were added pyrrolidine (0.77 g, 10.77 mmol). The reaction mixture was stirred at room temperature for 16 hours. Then, water was added and product was extracted with ethyl acetate (2×200 mL). The combined organic layer was washed with water, then brine, and dried over Na2SO4. Solvent was evaporated to give the title compound as a white solid. Yield: 0.12 g (16%). MP 109-111° C. 1H NMR (400 MHz, CDCl3): δ 8.16 (s, 2H), 6.93 (d, J=2.4 Hz, 1H), 6.44 (d, J=2.4 Hz, 1H), 4.71 (t, J=6.4 Hz, 2H), 3.94 (s, 3H), 3.93 (s, 3H), 3.87 (t, J=6.0 Hz, 2H), 2.75 (m, 4H), 2.60 (m, 8H), 2.37 (s, 6H), 2.16 (m, 2H), 2.05 (m, 2H), 1.82 (m, 8H). MS (ES) m/z: 549.75 (M+1). Analysis calculated for C32H44N4O4.0.5H2O (FW 557.73), %: C, 68.91; H, 8.13; N, 10.05. Found, %: C, 68.71; H, 8.56; N, 9.74.

reactant | 2-[4-(3-bromo-propoxy)-3,5-dimethyl-phenyl]-3-(3-bromo-propyl)-5,7-dimethoxy-3H-quinazolin-4-one | 1.35 mmol, 0.76 g | BrCCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1CCCBr)=O)OC)OC)C | C24H28Br2N2O4
reactant | pyrrolidine | 10.77 mmol, 0.77 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3,5-Dimethyl-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)-5,7-dimethoxy-3-(3-(pyrrolidin-1-yl)propyl)quinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCCN1CCCC1)C)C1=NC2=CC(=CC(=C2C(N1CCCN1CCCC1)=O)OC)OC | C32H44N4O4
